US07598391B2
1,1-Dicyclohexyl-3-[5-(4-ethanesulfonyl-1-piperazinyl methyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (100 mg, 0.30 mmol), ethanesulfonyl-piperazine hydrochloride (128 mg, 0.60 mmol) and sodium triacetoxyborohydride (83 mg, 0.39 mmol) to afford 66 mg (44%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.30 mmol, 100 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | ethanesulfonyl-piperazine hydrochloride | 0.60 mmol, 128 mg | Cl.C(C)S(=O)(=O)N1CCNCC1
reactant | sodium triacetoxyborohydride | 0.39 mmol, 83 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(4-ethanesulfonyl-1-piperazinyl methyl)-thiazol-2-yl]-urea | 66 mg, 44% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(=O)(=O)CC)C1CCCCC1 | C23H39N5O3S2
